US04411900
A mixture of 4-chloromethylthiazole monohydrochloride (1.7 g), 1-benzhydrylpiperazine (3.21 g) and potassium carbonate (5.3 g) in N,N-dimethylformamide (40 ml) was stirred at 65° C. for 2 hours. After concentration of the reaction mixture, the concentrate was extracted with ethyl acetate. The extract was washed with water, dried over anhydrous magnesium sulfate and then evaporated to dryness to give a residue, which was chromatographed on silica gel (120 g) using a mixture of chloroform and methanol (50:1 by volume) as an eluent. The eluates containing the desired compound were collected and evaporated to dryness under reduced pressure to give crystals, which were recrystallized from chloroform to obtain white crystals (1.2 g) of 4-(4-benzhydrylpiperazin-1-ylmethyl)thiazole, mp 114°-116° C.

reactant | 4-chloromethylthiazole monohydrochloride | 1.7 g | Cl.ClCC=1N=CSC1
reactant | 1-benzhydrylpiperazine | 3.21 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCNCC1 | C17H20N2
reactant | potassium carbonate | 5.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 4-(4-benzhydrylpiperazin-1-ylmethyl)thiazole | 1.2 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCN(CC1)CC=1N=CSC1 | C21H23N3S
